US07388019B2
(3S)-3-(Piperidin-1-ylcarbonyl)-1,2,3,4-tetrahydroisoquinoline
Following a procedure similar to that described for Intermediate 14, treatment of Boc-TIC-OH with EDC, HOBt, N,N-diisopropylethylamine and piperidine, followed by deprotection using trifluoroacetic acid, afforded the title compound as a white foam. LC/MS: 245.2 (M+1).

reactant | Boc-TIC-OH | CC(C)(C)OC(=O)N1CC2=CC=CC=C2C[C@H]1C(=O)O | C15H19NO4
reactant | HOBt | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | N,N-diisopropylethylamine | C(C)(C)N(C(C)C)CC | C8H19N
reactant | piperidine | N1CCCCC1 | C5H11N
reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
solvent | EDC
product | (3S)-3-(Piperidin-1-ylcarbonyl)-1,2,3,4-tetrahydroisoquinoline | N1(CCCCC1)C(=O)[C@H]1NCC2=CC=CC=C2C1 | C15H20N2O
